US06696445B2
C. (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)pyrrolo[3.2-e]pyrimidin-4-yl]amine
Heat a solution of 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine (340 mg, 1.1 mmol) and N-(4-ethoxy-3-methoxy-phenethyl)-ethylenediamine in NMP (2 mL) for 14 h at 130° C. Pour into water (5 mL) and extract with EtOAc (2×10 mL). Dry the combined organic extracts over Na2SO4, filter, and concentrate under reduced pressure. Purify by preparative TLC, eluting with 10% MeOH in CH2Cl2. Dissolve the residue in a minimum amount of MeOH then add HCl in EtOAc (2 mL) and triturate with Et2O to obtain the title compound as a solid (HCl salt).

reactant | 4-chloro-2,5,6-trimethyl-7-(2,4,6-trimethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 1.1 mmol, 340 mg | ClC=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C18H20ClN3
reactant | N-(4-ethoxy-3-methoxy-phenethyl)-ethylenediamine | C(C)OC1=C(C=C(CCNCCN)C=C1)OC | C13H22N2O2
reactant | water | 5 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | (2-{[2-(4-Ethoxy-3-methoxyphenyl)ethyl]amino}ethyl)[2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)pyrrolo[3.2-e]pyrimidin-4-yl]amine | C(C)OC1=C(C=C(C=C1)CCNCCNC1=NC(=NC2=C1C(=C(N2C2=C(C=C(C=C2C)C)C)C)C)C)OC | C31H41N5O2
